US05252590
To a solution of 0.6 g (2.4 m mol) of 4-heptafluoropropyl-5-methylimidazole in 5 ml of N,N-dimethyl formamide was added slowly 100 mg (2.4 m mol) of an oily sodium hydride (60%) while cooling with ice, followed by stirring at the same temperature for 10 minutes. After the reaction was completed, to the reaction mixture was added dropwise 0.52 g (2.4 m mol) of 2,3-dichloro-5-trifluoromethylpyridine, followed by stirring at room temperature for 9 hours. After the reaction was completed, the reaction mixture was poured into water, and extracted with ethyl acetate. Further, then the residue was washed with brine, dried over magnesium sulfate, and concentrated under reduced pressure. The obtained product was subjected to silica gel chromatography to give 0.4 g of 1-(3-chloro-5-trifluoromethylpyridin-2-yl)-4-heptafluoropropyl-5-methylimidazole.

reactant | 4-heptafluoropropyl-5-methylimidazole | 0.6 g | FC(C(C=1N=CNC1C)(F)F)(C(F)(F)F)F | C7H5F7N2
reactant | sodium hydride | 100 mg | [H-].[Na+]
reactant | 2,3-dichloro-5-trifluoromethylpyridine | 0.52 g | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
reactant | water | O | H2O
solvent | N,N-dimethyl formamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-(3-chloro-5-trifluoromethylpyridin-2-yl)-4-heptafluoropropyl-5-methylimidazole | 0.4 g | ClC=1C(=NC=C(C1)C(F)(F)F)N1C=NC(=C1C)C(C(C(F)(F)F)(F)F)(F)F | C13H6ClF10N3
